Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Difficulty breathing 
 
Major Surgical or Invasive Procedure:
Right video-assisted thoracoscopic surgery and biopsy of 
mediastinal mass.

 
History of Present Illness:
Ms. ___ is a ___ female with PMH HTN, GERD, 
seasonal allergies who began experiencing coughing and 
difficulty breathing when bending over in ___. She was 
evaluated and thought to have bronchitis and asthma and treated 
with 2 inhalers, followed by Z-PAK and prednisone. Prednisone 
mildly helped symptoms but after taper was completed, symptoms 
worsened. She was later placed on extended course of prednisone 
with keflex and robitussin with mild improvement. Subsequent CXR 
and CT Chest at ___ indicated large paratracheal mass. 
See image reads below. Biopsy consistent with lymphoma. Patient 
denies history of dysphagia or odynophagia, although she has 
been diagnosed with gastroesophageal reflux.  
She denies any fevers, chills, night sweats, or unexpected 
weight loss. There is no family history of cancer to include 
lymphoma. She has had no history of any malignancies 

 
Past Medical History:
1. Mediastinal Mass
2. Hypertension.
3. Gastroesophageal reflux.
4. Seasonal allergies.

 
Social History:
___
Family History:
Diabetes, migraines and heart disease.

 
Physical Exam:
General-AAOx3
Heart-RRR, normal S1, S2
Lungs-CTA B/L
Abdomen-soft, NT, ND
 
Pertinent Results:
___ 05:10PM   GLUCOSE-171* UREA N-9 CREAT-0.6 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-24 ANION GAP-12
___ 05:10PM   estGFR-Using this
___ 05:10PM   CALCIUM-8.6 PHOSPHATE-2.7 MAGNESIUM-2.0
___ 05:10PM   HCG-<5
___ 05:10PM   AFP-2.0
___ 05:10PM   WBC-13.1* RBC-3.93* HGB-11.9* HCT-34.9* 
MCV-89 MCH-30.2 MCHC-34.1 RDW-12.7
 
Brief Hospital Course:
Ms. ___ was admitted to ___ on ___ for planned 
Right video-assisted thoracoscopic surgery and biopsy of 
mediastinal mass. The procedure went well without complications. 
She did well postop. Postop chest xray showed no signs of 
pneumothorax or effusion. She was transferred to the floor from 
PACU on the same day. The chest tube drained about 100cc on 
POD0, then about 10cc overnight, so it was removed on POD1. PA 
and Lateral Chest Xray was then obtained, which showed very 
small pneumothorax, which is common after similar procedure and 
not to be concerned. She was normalized, tolerated regular diet 
well, voided without issues, got up from bed and walked in the 
hallway. Decision was made to keep her in till the biopsy 
results of the mediastinal  mass came back to plan her further 
treatment. She did well on POD2, POD3, POD4 without any issues. 
We received preliminary results of the biopsy today which 
indicates that she likely has benign lesion, likely thymic 
hyperplasia. We discussed the results with her and offered 
excision of the mediastinal mass which she agreed with and 
consented. The procedure is scheduled for ___. 
Ms. ___ decided that she would like to go home and spend 
the next day at home and will come back on ___ for the 
procedure.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
4. Docusate Sodium 100 mg PO BID 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4h-q6h prn Disp #*30 
Tablet Refills:*0
6. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
mediastinal mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for mediastinal biopsy and 
you've recovered well. You are now ready for discharge.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.
* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Take Tylenol  in between your narcotic.  
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.

 
Followup Instructions:
___